US09315495B2
To a solution of (6-butylbenzofuran-2-yl)methanol (85 mg, 0.42 mmol) in 1.5 mL dichloromethane at room temperature was added Dess-Martin periodinane (247 mg, 0.58 mmol). The resulting suspension was stirred vigorously for 2 h at room temperature, poured into 20 mL saturated sodium bicarbonate and extracted with dichloromethane (3×15 mL). The combined dichloromethane extracts were dried over magnesium sulfate, filtered and concentrated. The crude mixture was subjected to chromatography on silica gel (5% ethyl acetate in hexanes) to give 6-butylbenzofuran-2-carbaldehyde (81 mg, 96%) as an oil. Used without further characterization.

reactant | (6-butylbenzofuran-2-yl)methanol | 0.42 mmol, 85 mg | C(CCC)C1=CC2=C(C=C(O2)CO)C=C1 | C13H16O2
reactant | Dess-Martin periodinane | 0.58 mmol, 247 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 6-butylbenzofuran-2-carbaldehyde | 81 mg, 96% | C(CCC)C1=CC2=C(C=C(O2)C=O)C=C1 | C13H14O2
